US05068231
N-Propyl-3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide
To a stirred and chilled (10°-15° C.) solution of 0.027 mole of 3-[3-(trifluoromethyl)phenoxy]azetidine in 100 ml of dry benzene was added dropwise 4.0 g (0.047 mole) of n-propyl isocyanate. The reaction mixture was stirred at room temperature for 30 minutes. The benzene was washed with dilute sodium bicarbonate (50 ml), water (25 ml), saturated sodium chloride (25 ml), and dried (sodium sulfate). The solution volume was reduced to 50 ml, and 30 ml of petroleum ether was added, yielding 6.5 g (81%) of product. Recrystallization from isopropyl etherisopropyl alcohol gave 6.0 g of small white needles, m.p. 115°.117° C.

reactant | 3-[3-(trifluoromethyl)phenoxy]azetidine | 0.027 mole | FC(C=1C=C(OC2CNC2)C=CC1)(F)F | C10H10F3NO
reactant | n-propyl isocyanate | 0.047 mole, 4.0 g | C(CC)N=C=O | C4H7NO
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | N-Propyl-3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide | 6.5 g, 81% | C(CC)NC(=O)N1CC(C1)OC1=CC(=CC=C1)C(F)(F)F | C14H17F3N2O2
